US06660744B1
4-Amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidine
3-Amino-4-cyano-5-(4-phenoxyphenyl)pyrazole (Intermediate AB) (29.5 g) was suspended in 300 mL formamide and heated under nitrogen at 180° C. for 4 hours, cooled to 30 C, 300 mL water added and the solid collected, washed well with water then methanol and dried in air giving 24.6 g pure product (80%) of 4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidine m.p. 267-269° C. as pale brown-grey solid. Calculated for C17H13N5O C 67.3H 4.3 N 23.1 Found C 67.0H 4.4 N 23.1.

reactant | 3-Amino-4-cyano-5-(4-phenoxyphenyl)pyrazole | 29.5 g | NC1=NNC(=C1C#N)C1=CC=C(C=C1)OC1=CC=CC=C1 | C16H12N4O
reactant | water | 300 mL | O | H2O
reactant | formamide | 300 mL | C(=O)N | CH3NO
product | 4-Amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidine | 24.6 g, 80% | NC1=C2C(=NC=N1)NN=C2C2=CC=C(C=C2)OC2=CC=CC=C2 | C17H13N5O
